US07405210B2
Preparation 33: 6-Methoxy-2-methyl-3-nitropyridine
To a stirred suspension of 2-chloro-6-methoxy-3-nitropyridine (2.44 g, 12.9 mmol) in 10% v/v aqueous dioxane (25 mL) was added tetrakis(triphenyl phosphine) palladium (1.50 g, 1.3 mmol) and the mixture stirred for 15 min prior to the addition of trimethylboroxine (1.81 mL, 12.9 mmol) and potassium carbonate (5.36 g, 38.8 mmol). The reaction mixture was heated under reflux for 6 h then allowed to cool to rt over 16 h. Ethyl acetate (100 mL) was added and the mixture stirred vigorously for 1 h. The mixture was filtered through celite, washing through with ethyl acetate. The aqueous phase was separated and extracted with ethyl acetate (3×30 mL) and the combined organics were washed with brine (50 mL), dried (MgSO4), filtered and adsorbed onto silica gel. Purification via flash column chromatography (SiO2, ethyl acetate/isohexane, 1:20) gave the title compound as a pale yellow solid. δH (CDCl3): 2.81 (3H, s), 4.01 (3H, s), 6.65 (1H, d), 8.26 (1H, d).

reactant | 2-chloro-6-methoxy-3-nitropyridine | 12.9 mmol, 2.44 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
reactant | trimethylboroxine | 12.9 mmol, 1.81 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 38.8 mmol, 5.36 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenyl phosphine) palladium | 1.3 mmol, 1.50 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-Methoxy-2-methyl-3-nitropyridine | COC1=CC=C(C(=N1)C)[N+](=O)[O-] | C7H8N2O3
